### PR TITLE
Use elpi.derive instead of "Scheme Equality"

### PR DESCRIPTION
**Pull request by eponier**
elpi.derive is much faster on inductives with many constructors. This is particularly interesting for type x86_op which has more than 100 constructors.

### CODE REVIEW

File: proofs/_CoqProject [hunk 1]
```diff
@@ -15,6 +15,7 @@
 -arg "-w -deprecated-since-mathcomp-2.3.0"
 -arg "-w -deprecated-from-Coq"
 -arg "-w -deprecated-dirpath-Coq"
+-arg "-async-proofs off"
```
Comment (eponier) [inline proofs/_CoqProject:18]: Oops, should not be there.

File: proofs/compiler/stack_alloc.v [hunk 2]
```diff
@@ -105,19 +107,15 @@ End CmpR.
 Module Mr := Mmake CmpR.
 
 (* ------------------------------------------------------------------ *)
+#[only(eqbOK)] derive Z.
```
Comment (eponier) [inline proofs/compiler/stack_alloc.v:110]: We may want to move that elsewhere. In utils?

File: proofs/compiler/x86_lowering_proof.v [hunk 3]
```diff
@@ -176,6 +176,11 @@ Section PROOF.
     end.
   Qed.
 
+  Lemma cons_inj {A} {x1 x2 : A} (s1 s2 : seq A) :
```
Comment (eponier) [inline proofs/compiler/x86_lowering_proof.v:179]: We may want to move this to utils.

File: proofs/lang/type.v [hunk 4]
```diff
@@ -147,7 +143,7 @@ Module CEDecStype.
     | sword w1 =>
       match t2 as t0 return {sword w1 = t0} + {True} with
       | sword w2 =>
-        match wsize_eq_dec w1 w2 with
+        match Bool.reflect_dec _ _ (wsize_eqb_OK w1 w2) with
```
Comment (eponier) [inline proofs/lang/type.v:146]: In the end, I reintroduced `wsize_eq_dec` so this change is not needed.

File: proofs/lang/type.v [hunk 5]
```diff
@@ -169,7 +167,7 @@ Module CEDecStype.
     + case: pos_dec (@pos_dec_r n n' I) => [Heq _ | [] neq ] //=.
       move => _; apply/eqP => -[].
       by move/eqP: (neq erefl).
-    case: wsize_eq_dec => // eqw.
+    case: Bool.reflect_dec => // eqw.
```
Comment (eponier) [inline proofs/lang/type.v:170]: idem

File: proofs/compiler/arm_lowering_proof.v [hunk 6]
```diff
@@ -1121,13 +1124,17 @@ Proof.
   case: b hw hwrite12' => hw hwrite12'.
   - move: hexeces.
     rewrite /exec_sopn /=.
-    case: ves => [// | ? []]; t_xrbindP=> //= v _ -> /= [->] ?; subst ws''.
-    move=> [?]; subst v.
+    case: ves => [// | ? []]; last by t_xrbindP.
+    apply: rbindP => v /=.
+    apply: rbindP => _ -> [->] /ok_inj /(f_equal (head (Vbool true))) /= /Vword_inj [?]; subst ws''.
```
Comment (eponier) [inline proofs/compiler/arm_lowering_proof.v:1129]: TODO: use `cons_inv` instead

File: proofs/compiler/arm_lowering_proof.v [hunk 7]
```diff
@@ -1121,13 +1124,17 @@ Proof.
...
+    move=> /= ?; subst v.
     by rewrite truncate_word_le.
   move: hexeces.
   rewrite /exec_sopn /=.
-  case: ves => [// | ? []]; t_xrbindP=> //= v _ -> /= [->] ?; subst ws''.
-  move=> [?]; subst v.
+  case: ves => [// | ? []]; last by t_xrbindP.
+  apply: rbindP => v /=.
+  apply: rbindP => _ -> [->] /ok_inj /(f_equal (head (Vbool true))) /= /Vword_inj [?]; subst ws''.
```
Comment (eponier) [inline proofs/compiler/arm_lowering_proof.v:1136]: idem

**Comment by eponier** [comment]
Note to self: it seems we can remove `eq_axiom_of_scheme`.

File: proofs/_CoqProject (hunk 1 above)
Comment (eponier) [reply proofs/_CoqProject]: removed

File: proofs/compiler/x86_lowering_proof.v (hunk 3 above)
Comment (eponier) [reply proofs/compiler/x86_lowering_proof.v]: removed

File: proofs/lang/type.v (hunk 4 above)
Comment (eponier) [reply proofs/lang/type.v]: reverted

File: proofs/lang/type.v (hunk 5 above)
Comment (eponier) [reply proofs/lang/type.v]: reverted

File: proofs/compiler/arm_lowering_proof.v (hunk 6 above)
Comment (eponier) [reply proofs/compiler/arm_lowering_proof.v]: removed

File: proofs/compiler/arm_lowering_proof.v (hunk 7 above)
Comment (eponier) [reply proofs/compiler/arm_lowering_proof.v]: removed

**Comment by eponier** [comment]
I rebased on top of main. For some reason, I need to add some `clear` before `lia` to prevent the tactic from capturing some section variables that it did not capture before.

**Comment by eponier** [comment]
I have reached a reasonable state. But I'm stuck on one thing. It works on my machine, but not in the CI because of the version of coq-elpi (CI uses 2.2.0). There are some errors related to scopes that I fixed [upstream](https://github.com/LPCIC/coq-elpi/pull/647) but the fix is only from 2.2.1. It is easy to write a backward compatible fix. But there is another problem that I mentioned above. For some reason, coq-elpi.2.2.x is bugged.

So the only sensible fix I see is to require a more recent version of coq-elpi. But maybe for that we have to wait the next release of nixos in the coming weeks (this is what I get from the name 25.05). @vbgl, what do you think?

**Comment by vbgl** [comment]
What versionr of coq-elpi are known to work? I’ve just tried with 2.2.3 and got:
~~~
File "./compiler/arm_instr_decl.v", line 78, characters 0-3921:
Error: The elpi tactic/command derive failed without giving a specific error
message. Please report this inconvenience to the authors of the program.
~~~

**Comment by eponier** [comment]
From 2.3.

**Comment by vbgl** [comment]
There is no need for a major update of nixkpgs: a minor one should be enough.

**Comment by eponier** [comment]
And thanks for taking care of updating the deps, once more!

**Comment by eponier** [comment]
Indeed, give me 5 minutes.

**Review by vbgl — APPROVED** [review]
Thanks.
